US08202873B2
1-{4-[4-(5-Methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-ethanone hydrochloride
Dissolve 1-[4-(3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-phenyl]-ethanone (0.250 g, 0.885 mmol) in 1,2 dichloroethane (4 mL). Add 5-methyl-1-phenyl-1H-pyrazole-4-carbaldehyde (1.5 eq., 0.250 g, 1.33 mmol). Stir for 30 min. Add sodium triacetoxyborohydride (2.0 eq., 0.375 g, 1.77 mmol). Stir at room temperature for 48 hr. Purify by SCX column followed by normal phase chromatography with a gradient of 100% EtOAc to 5% 7N ammonia in methanol/EtOAc to give the freebase of the title compound, (0.312 g, 78% yield). MS (ES): m/z=453.2[M+H]. Dissolve in a mixture of acetonitrile (2 mL) and water (3 mL). Add aq. 1N HCl (1 eq., 0.69 mmol, 0.69 mL). Freeze the solution to −78° C. in a dry-ice/acetone bath. Place the solution in the lyophilizer for 48 hr. to give the title compound (0.268 g, 80% yield). MS (ES): m/z=453.2 [M+H]+.

reactant | 1-[4-(3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl)-phenyl]-ethanone | 0.885 mmol, 0.250 g | N1(CCNCC1)C1=NC=CN=C1C1=CC=C(C=C1)C(C)=O | C16H18N4O
reactant | 5-methyl-1-phenyl-1H-pyrazole-4-carbaldehyde | 1.33 mmol, 0.250 g, 1.5 eq. | CC1=C(C=NN1C1=CC=CC=C1)C=O | C11H10N2O
reactant | sodium triacetoxyborohydride | 1.77 mmol, 0.375 g, 2.0 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2 dichloroethane | 4 mL | ClCCCl | C2H4Cl2
product | 1-{4-[4-(5-Methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-ethanone hydrochloride | 0.312 g, 78% yield | Cl.CC1=C(C=NN1C1=CC=CC=C1)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)C(C)=O | InChI=1S/C27H28N6O.ClH/c1-20-24(18-30-33(20)25-6-4-3-5-7-25)19-31-14-16-32(17-15-31)27-26(28-12-13-29-27)23-10-8-22(9-11-23)21(2)34;/h3-13,18H,14-17,19H2,1-2H3;1H
